US04866089
Preparation of 7-(2-hydroxy-n-propoxy)-2,2-dimethyl-4-chromanone
To a mixture of 40 ml of methanol, 5 ml of water 1.1 g (20 millimoles) of potassium hydroxide and 3.8 g (20 millimoles) of 7-hydroxy-2,2-dimethyl-4-chromanone under stirring 11.6 g (14 ml, 0.2 mole) of propene oxide are added and the reaction mixture is refluxed for 5 hours. The reaction mixture is diluted with 200 ml of water and worked up according to Example 12. Thus 4.0 g of the desired compound are obtained, yield 80%. Mp.: 111°-113° C.

reactant | methanol | 40 ml | CO | CH4O
reactant | potassium hydroxide | [OH-].[K+]
reactant | 7-hydroxy-2,2-dimethyl-4-chromanone | 20 millimoles, 3.8 g | OC1=CC=C2C(CC(OC2=C1)(C)C)=O | C11H12O3
reactant | propene oxide | 0.2 mole, 14 ml, 11.6 g | C1C(C)O1 | C3H6O
solvent | water | 200 ml | O | H2O
solvent | water | 20 millimoles, 5 ml, 1.1 g | O | H2O
product | 7-(2-hydroxy-n-propoxy)-2,2-dimethyl-4-chromanone | 4.0 g, yield 80% | OC(COC1=CC=C2C(CC(OC2=C1)(C)C)=O)C | C14H18O4
